US05273999
A mixture of 1.72 g (3.84 mmol) of (E)-3-[2-[5-[(5-oxo-2-(2-propenyl)-5,6,7,8-tetrahydro-1-naphthalenyl)oxy]pentyloxy]phenyl]-2-propenoic acid methyl ester from the preceding experiment, 0.1 g of 10% palladium of carbon, and 50 mL of ethyl acetate was stirred in an atmosphere of hydrogen until gas uptake ceased. The catalyst was filtered with suction on a pad of Celite and the filter cake was washed thoroughly with ethyl acetate. Concentration of the combined filtrate and washes under reduced pressure gave a yellow oil which was chromatographed on 50 g of silica gel. Elution with 4:1 hexane-ether afforded 1.35 g (78%) of 2-[5-[(5-oxo-2-propyl-5,6,7,8-tetrahydro-1-naphthalenyl)oxy]pentyloxy]benzenepropanoic acid methyl ester as a pale-yellow oil.

reactant | (E)-3-[2-[5-[(5-oxo-2-(2-propenyl)-5,6,7,8-tetrahydro-1-naphthalenyl)oxy]pentyloxy]phenyl]-2-propenoic acid methyl ester | 3.84 mmol, 1.72 g | COC(\C=C\C1=C(C=CC=C1)OCCCCCOC1=C(C=CC=2C(CCCC12)=O)CC=C)=O | C28H32O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 0.1 g | [Pd] | Pd
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-[5-[(5-oxo-2-propyl-5,6,7,8-tetrahydro-1-naphthalenyl)oxy]pentyloxy]benzenepropanoic acid methyl ester | 1.35 g, 78% | COC(CCC1=C(C=CC=C1)OCCCCCOC1=C(C=CC=2C(CCCC12)=O)CCC)=O | C28H36O5
